US06002008
N-{3-Cyano-4-[(3,4-difluorophenyl)amino]-6-quinolinyl}-2-butynamide
Dissolved 425 mg (5.06 mmol) 2-butynoic acid in 40 ml THF and chilled to 0° C. under N2. Added 556 μl (5.06 mmol) N-methylmorpholine and 658 μl (5.06 mmol) isobutyl chloroformate and stirred for 10 minutes. Added dropwise a solution of 1.00 g (3.37 mmol) 6-amino-4-[(3,4-difluorophenyl)amino]-3-quinolinecarbonitrile in 2.0 ml hot DMF and 20 ml THF. Removed ice bath at 15 minutes and stirred at 25° C. overnight. Stripped solvent, slurried residue with water, and collected solids. Boiled in ethyl acetate, collected solids, and dried in vacuo, giving 735 mg of yellow solid: mass spectrum (electrospray m/e): M+H=363.3

reactant | 2-butynoic acid | 5.06 mmol, 425 mg | C(C#CC)(=O)O | C4H4O2
reactant | N-methylmorpholine | 5.06 mmol, 556 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.06 mmol, 658 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3,4-difluorophenyl)amino]-3-quinolinecarbonitrile | 3.37 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)F | C16H10F2N4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{3-Cyano-4-[(3,4-difluorophenyl)amino]-6-quinolinyl}-2-butynamide | 735 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=C(C=C1)F)F)NC(C#CC)=O | C20H12F2N4O
